US07465815B2
5-Bromo-7-(4-isopropylbenzyl)-3,4,6-trimethyl-1-benzofuran
Using 1-(4-bromo-1-(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetone obtained in Reference Example 189, the title compound was synthesized in the same manner as in Reference Example 143. Yield 84%. Melting point: 76-77° C. (methanol-THF).

reactant | 4-bromo-1-(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetone | BrC1=C(C(=C(OCC(=O)C)C=C1C)CC1=CC=C(C=C1)C(C)C)C | C21H25BrO2
reactant | methanol THF | CO.C1CCOC1
product | 5-Bromo-7-(4-isopropylbenzyl)-3,4,6-trimethyl-1-benzofuran | Yield 84% | BrC=1C(=C(C2=C(C(=CO2)C)C1C)CC1=CC=C(C=C1)C(C)C)C | C21H23BrO
